US05496843
1) 4-Nitro-3-trifluoromethanesulfonyloxytoluene
To a solution of 3-methyl-6-nitrophenol (3.06 g, 20 mmol) and 2,4,6-colidine (4.0 mL, 30 mmol) in dichloromethane (100 mL) was added slowly trifluoromethanesulfonic anhydride (7.05 g, 25 mmol) at room temperature. The mixture was stirred overnight at the same temperature, poured into water, and extracted with ethyl acetate. The organic layer was washed successively with 0.2N hydrochloric acid, water, saturated aqueous sodium bicarbonate, and brine, dried over magnesium sulfate, and concentrated to give 5.0 g of the title compound (88%): 1H NMR (CDCl3) δ8.03 (d, 1H, J=8.3 Hz), 7.36 (d, 1H, J=8.3 Hz), 7.24 (s, 1H), 2.52 (s, 3H).

reactant | 3-methyl-6-nitrophenol | 20 mmol, 3.06 g | CC=1C=C(C(=CC1)[N+](=O)[O-])O | C7H7NO3
reactant | trifluoromethanesulfonic anhydride | 25 mmol, 7.05 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-Nitro-3-trifluoromethanesulfonyloxytoluene | 5.0 g, 88% | [N+](=O)([O-])C1=C(C=C(C=C1)C)OS(=O)(=O)C(F)(F)F | C8H6F3NO5S
